US07465726B2
(1H-Indazol-5-yl)-[6-(1-methanesulfonyl-1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine
(1H-Indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine hydrochloride (80 mg, 0.217 mmol), Hunigs base (113 μL, 0.653 mmol) and methanesulfonyl chloride (17 μL, 0.2177 mmol) were combined in DMF at rt and stirred overnight. The reaction was concentrated in vacuo and residue purified on silica gel by elution with tetrahydrofuran:dichloromethane (3:2) to yield the title compound as white solid. 1H NMR (d6-DMSO, 400 MHz) 9.4(1H, br. s), 8.4 (1H, s), 8.3(1H,s), 8.0(1H,s), 7.7(1H, d), 7.5(1H, d), 6.8(1H, s), 6.4(1H,s), 3.9(2H, s), 3.4(2H, m), 3.0(3H,s) and 2.6(2H, s); LC/MS: m/z 410 [M+H]+, Rt=2.82 min.

reactant | (1H-Indazol-5-yl)-[6-(1,2,3,6-tetrahydro-pyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine hydrochloride | 0.217 mmol, 80 mg | Cl.N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | Hunigs base | 0.653 mmol, 113 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.2177 mmol, 17 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | CN(C)C=O | C3H7NO
product | (1H-Indazol-5-yl)-[6-(1-methanesulfonyl-1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine | N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)S(=O)(=O)C | C19H19N7O2S
